Name:  ___.                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Erythromycin Base
 
Attending: ___
 
Chief Complaint:
Acute renal failure
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
This is a ___ y/o M with h/o CAD, HLD, CHF (EF 35-40%) and 
dementia presenting to ___ from ___ (___ 
___) with lethary and hypotension.
.
Per report from ___, patient had been lethargic x 1 week after 
starting trial dose of zoloft. Medication was subsequently 
stopped however patient remain lethargic and had difficulty 
ambulating, requiring a wheelchair (normally patient able to 
ambulate with walker). Today, patient found to be increasing 
lethargic with a BP of 76/doppler (normally runs 90-100/60). 
Patient was then brought to ED for further evaluation.
.
In ED VS were 98.0 87 113/61 20 100%. Patient noted to have ___ 
67 and was given 1 amp of D50. CXR completed showed b/l pleural 
effusions with concern for LLL PNA. Patient was given 1 dose of 
vancomycin and levofloxacin. Additionally, Cr was noted to be 
1.6 (up from baseline of 1.2. Head and neck were also imaged but 
did not reveal any acute processes.
 
Past Medical History:
Dementia
CAD s/p MI  
CHF - last EF 35-40%
Chronic kidney disease  
Multiple falls  
Hypercholesterolemia  
Peripheral neuropathy
Spinal stenosis
? Depression
 
Social History:
___
Family History:
Does not recall 
 
Physical Exam:
VS: 144/67 118 20 96% RA
GA: AOx1, NAD, comfortable
HEENT:  PERRLA. MMM. no LAD. no JVD. neck supple. 
Cards: RRR S1/S2 heard. no murmurs/gallops/rubs.
Pulm: CTAB, no wheezes
Abd: soft, NT, +BS. no g/rt. neg HSM. neg ___ sign.
Extremities: wwp, no edema. DPs, PTs 2+.
Skin: Multiple scabs present on all over skin
Neuro/Psych: CNs II-XII intact. ___ strength in U/L extremities. 
DTRs 2+ ___ (biceps, achilles, patellar). 
.
 
Pertinent Results:
___ 11:45AM BLOOD WBC-6.7 RBC-4.93 Hgb-14.1 Hct-44.1 MCV-89 
MCH-28.6 MCHC-32.0 RDW-14.8 Plt ___
___ 11:45AM BLOOD Neuts-67.5 ___ Monos-9.8 Eos-0.5 
Baso-0.5
___ 11:40AM BLOOD ___ PTT-24.8 ___
___ 11:45AM BLOOD Glucose-59* UreaN-37* Creat-1.6* Na-137 
K-4.5 Cl-101 HCO3-27 AnGap-14
___ 11:45AM BLOOD cTropnT-0.02*

Studies:
CT HEAD W/O CONTRAST Study Date of ___ 11:40 AM 
No acute intracranial process.

 CT C-SPINE W/O CONTRAST Study Date of ___ 11:41 AM 
No evidence of acute fracture. Extensive posterior osteophytes 
and 
calcification of the posterior longitudinal ligament at C5-C6 
causes moderate- to-severe spinal canal narrowing. This can 
predispose the patient to cord injury in the appropriate 
clinical setting. If further imaging is warranted, MRI can be 
considered. 

CXR (___):
Findings suggesting mild congestion, bilateral effusions, 
bibasilar atelectasis, cannot exclude pneumonia/aspiration. 

 
Brief Hospital Course:
This is a ___ y/o M with CAD, HLD, and dementia here with 
progressing lethary x 1 week found to be hypotensive at ALF 
admitted with possible PNA and acute renal failure.

# Hypotension: Patient admitted because found to be hypotensive 
at ALF. While admitted patient's BP was stabily in 100s-120s. 
Extensive fluid resuscitation was note necessary. 
.
# Urinary retention: Patient noted to have high post-void 
residuals (>500cc). This was thought to be ___ enlarged 
prostate. It appears that this also contributed to acute renal 
failure on presentation. Foley catheter was placed and Cr 
normalized. Patient also started on finasteride. He has follow 
up with urology and will need further outpatient evaluation.
.
# Fall risk: Patient exhibited extreme fall risk while admitted. 
Given this concern, patient was screened for skilled nursing 
facility. He will likely need this for long term care.
.
# CAD: Inactive issue during this hospitalization. No changes 
were made.
.
# Hyperlipidemia: Inactive issue during this hospitalization. No 
changes were made.
 
Medications on Admission:
- Atorvastatin 20 mg PO qAM.  
- Folic Acid 1 mg DAILY 
- Aspirin 81 mg DAILY 
- Multivitamin
- Vitamin D 800 units daily
 
Discharge Medications:
1. multivitamin     Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
2. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
3. senna 8.6 mg Tablet Sig: One (1) Tablet PO HS (at bedtime) as 
needed for constipation.  
4. folic acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

5. aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
6. simvastatin 10 mg Tablet Sig: Two (2) Tablet PO QAM (once a 
day (in the morning)).  
7. cholecalciferol (vitamin D3) 400 unit Tablet Sig: Two (2) 
Tablet PO DAILY (Daily).  
8. finasteride 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Urinary retention
Dementia

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted because you had low blood pressure. While you 
were admitted, you received some fluids. Your blood pressure was 
normal throughout your stay.
.
While you were here we noticed that you were retaining urine in 
your bladder. This is because you have an enlarged prostate. We 
had to place a catheter in your bladder temporarily until we are 
able to shrink your prostate. We started you on a medication to 
help your prostate shrink. You will need to follow up with a 
urologist to help you with this problem.
.
We are also concerned that you are at a risk of falling. Because 
of this you need to go a skilled nursing facility which provide 
you more attention.
.
The following changes were made to your medications:
- STARTED Finasteride 5mg daily
.
No other changes were made to your medications. Please continue 
your other medications as you had prior to admission.
 
Followup Instructions:
___